US08445118B2
(12) Niobium Catecholate (Molecular Weight: 363)
A solution of catechol (8.64 g, 78.5 mmol) and toluene (70 ml) was dehydrated by distilling 10 mL of the solution. Thereafter, 10.0 g (31.4 mmol) of niobium(V) ethoxide was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 110° C. or higher, distilled until the amount of the solution became half. After the distillation, volatile components of the residual mixed solution were vaporized under reduced pressure by a rotary evaporator. The residual solid content was further heated to 100° C. under vacuum using a vacuum dryer so that the remaining volatile components were completely removed. The solid content (catechol-niobium complex) was brown in color. The yield amount was 11.4 g (31.4 mmol), and the yield percentage was 100%. 3.63 g of catechol-niobium complex was dissolved into 100 mL of 1:4 acetylacetone/toluene to produce a coating liquid.

reactant | catechol | 78.5 mmol, 8.64 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | niobium(V) ethoxide | 31.4 mmol, 10.0 g | [O-]CC.[Nb+5].[O-]CC.[O-]CC.[O-]CC.[O-]CC
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | Niobium Catecholate | C=1([O-])C([O-])=CC=CC1.[Nb+5].C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.[Nb+5] | InChI=1S/5C6H6O2.2Nb/c5*7-5-3-1-2-4-6(5)8;;/h5*1-4,7-8H;;/q;;;;;2*+5/p-10
